US05089507
3-methyl-2-(pyrrolidin-1-yl)methyl piperidine
g 6 (0.034 moles) of 3-methyl-2-(pyrrolidin-1-yl)methyl pyridine were dissolved in 120 ml of isoamilic alcohol and under nitrogen atmosphere, at 120° C., g 4.8 (0.21 moles) of sodium were added in small portions during 4 hours. The yellow solution obtained was kept at 120° C. for an additional hour, and then cooled and poured in 30 g of ice. The organic layer was separated and the acqueous layer was extracted twice with ether; the combined organic layer was then extracted with two 80 ml portions of HCl 37%; the acqueous layer was washed with ether and evaporated i.v. The residue was taken up in 10 ml of 40% acqueous NaOH and extracted with two 50 ml portions of ether. The combined ether extracts were then dried over anhydrous magnesium sulfate. Removal of the ether yields 3.8 g of crude product as diastereoisomeric mixture. Diast A/Diast B=72/22.4 (GLC).

reactant | 3-methyl-2-(pyrrolidin-1-yl)methyl pyridine | CC=1C(=NC=CC1)CN1CCCC1 | C11H16N2
reactant | sodium | [Na] | Na
product | 3-methyl-2-(pyrrolidin-1-yl)methyl piperidine | 3.8 g | CC1C(NCCC1)CN1CCCC1 | C11H22N2
